US09359375B2
A mixture of (R)-3-(4-(1H-imidazol-1-yl)phenyl)-2-(5-bromo-4-cyano-2-fluorophenylamino)propanamide (59 mg, 0.137 mmol), 5-amino-3-methylisothiazole hydrochloride (35 mg, 0.232 mmol), K2CO3 (60 mg, 0.434 mmol), BINAP (25 mg, 0.040 mmol) and Pd(OAc)2 (15 mg, 0.066 mmol) in dioxane (2 mL) and DMSO (0.3 mL) was degassed with argon, then was stirred at 120 C for 18 h. The mixture was purified by HPLC to give (R)-3-(4-(1H-imidazol-1-yl)phenyl)-2-(4-cyano-2-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)propanamide (9 mg).

reactant | (R)-3-(4-(1H-imidazol-1-yl)phenyl)-2-(5-bromo-4-cyano-2-fluorophenylamino)propanamide | 0.137 mmol, 59 mg | N1(C=NC=C1)C1=CC=C(C=C1)C[C@H](C(=O)N)NC1=C(C=C(C(=C1)Br)C#N)F | C19H15BrFN5O
reactant | 5-amino-3-methylisothiazole hydrochloride | 0.232 mmol, 35 mg | Cl.NC1=CC(=NS1)C
reactant | K2CO3 | 0.434 mmol, 60 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | BINAP | 0.040 mmol, 25 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | DMSO | 0.3 mL | CS(=O)C | C2H6OS
catalyst | Pd(OAc)2 | 0.066 mmol, 15 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-3-(4-(1H-imidazol-1-yl)phenyl)-2-(4-cyano-2-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)propanamide | 9 mg | N1(C=NC=C1)C1=CC=C(C=C1)C[C@H](C(=O)N)NC1=C(C=C(C(=C1)NC1=CC(=NS1)C)C#N)F | C23H20FN7OS
